US03962227
7-[2-(2-Thienyl)acetamido]-3-fluoro-3-cephem-4-carboxylic acid.
To 110 ml. of methanol and 83 mg. of pre-reduced 5 percent palladium on carbon were added 83 mg. of p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-fluoro-3-cephem-4-carboxylate. The mixture was hydrogenated at 53 psig. for one hour. The resulting mixture was filtered, the filtered catalyst was washed with methanol, and the methanol washings were added to the filtrate. The filtrate was then evaporated in vacuo. The residue was dissolved in ethyl acetate, and the ethyl acetate solution was extracted with dilute aqueous sodium bicarbonate. The sodium bicarbonate solution was washed with ethyl acetate, layered with ethyl acetate, and dilute aqueous HCl was added. The layered ethyl acetate was separated and evaporated to recover 7-[2-(2-thienyl)acetamido]-3-fluoro-3-cephem-4-carboxylic acid, shown by bioautogram to be biologically active.

reactant | p-nitrobenzyl 7-[2-(2-thienyl)acetamido]-3-fluoro-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)F)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H16FN3O6S2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 7-[2-(2-Thienyl)acetamido]-3-fluoro-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)F)C(=O)O)C1=O | C13H11FN2O4S2
